US05691376
3-Cyclopentyloxy-4-methoxy-biphenyl
Following the procedure of Example 1, phenylboronic acid and 3-cyclopentyloxy-4-methoxybromobenzene yielded 46% of the title compound as white needles: mp 62°-64° C.

reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 3-cyclopentyloxy-4-methoxybromobenzene | C1(CCCC1)OC=1C=C(C=CC1OC)Br | C12H15BrO2
product | 3-Cyclopentyloxy-4-methoxy-biphenyl | 46% | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC=CC=C1 | C18H20O2
